US04943574
To a stirred solution of 5.2 parts of 1-hydroxy-α-phenyl-1H-benzotriazole-6-methanol in 30 parts of dimethyl sulfoxide were added 0.96 parts of a sodium hydride dispersion 50%. The reaction mixture was stirred till no more hydrogen escapted. After the addition of 3.34 parts of ethyl 2-bromoacetate, the whole was stirred for 30 minutes at room temperature. 1.38 Parts of potassium carbonate were added and stirring was continued for 3 hours at 50° C. The dimethyl sulfoxide layer was evaporated and the residue was taken up in water and 20 parts of a hydrochloric acid solution 1N. The product was extracted with a mixture of trichloromethane and methanol (90:10 by volume). The extract was dried, filtered and concentrated. The concentrate was crystallized from 32.5 parts of dichloromethane. The product was filtered off and dried, yielding 3.1 parts (68.8%) of α-phenyl-1H-benzotriazole-5-methanol; mp. 143.0° C. (int. 70).

reactant | 1-hydroxy-α-phenyl-1H-benzotriazole-6-methanol | ON1N=NC2=C1C=C(C=C2)C(O)C2=CC=CC=C2 | C13H11N3O2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | ethyl 2-bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | α-phenyl-1H-benzotriazole-5-methanol | 68.8% | C1(=CC=CC=C1)C(O)C1=CC2=C(NN=N2)C=C1 | C13H11N3O
